US07226926B2
5-Fluoro-2-{3-fluoro-6-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-2-yl}benzonitrile
To 2-(8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (0.21 g, 1.10 mmol), 2-(6-chloro-3-fluoropyridin-2-yl)-5-fluorobenzonitrile (0.25 g, 1.00 mmol) and palladium acetate (0.011 g, 0.05 mmol) in N,N-dimethylacetamide (2 ml) was added triphenylphosphine (0.013 g, 0.05 mmol) followed by potassium acetate (0.14 g, 1.51 mmol) and the mixture heated at 130° C. for 2 h. The reaction was cooled to ambient temperature, diluted with methanol (8 ml) and 2 drops of acetic acid were added. The mixture was poured onto a strong cation exchange cartridge and eluted with several column lengths of methanol. Several column lengths of 2N ammonia in methanol were then eluted to recover the product. The pale yellow oil was chromatographed on silica, eluting with 3% methanol in dichloromethane, to give the title material as a white powdery solid. Recrystallised from ethyl acetate/ether to afford the title compound (215 mg): δH (400 MHz, CDCl3) 1.73 (6H, s), 2.07 (1H, s), 7.26 (1H, d, J 14.4), 7.45-7.49 (1H, m), 7.61 (1H, dd, J 2.6, 7.9), 7.67 (1H, t, J 9.0), 7.77-7.80 (1H, m), 7.88 (1H, dd, J 3.3, 8.9), 8.15 (1H, s), 9.59 (1H, d, J 7.3); m/z (ES+) 409.

reactant | 2-(8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 1.10 mmol, 0.21 g | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 2-(6-chloro-3-fluoropyridin-2-yl)-5-fluorobenzonitrile | 1.00 mmol, 0.25 g | ClC1=CC=C(C(=N1)C1=C(C#N)C=C(C=C1)F)F | C12H5ClF2N2
reactant | triphenylphosphine | 0.05 mmol, 0.013 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 1.51 mmol, 0.14 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | 8 ml | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
catalyst | palladium acetate | 0.05 mmol, 0.011 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Fluoro-2-{3-fluoro-6-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-2-yl}benzonitrile | FC=1C=CC(=C(C#N)C1)C1=NC(=CC=C1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C22H15F3N4O
